US05356558
3-Methyl-1-(4'-propylphenyl)-1-butyne-3-ol (33 g) was dissolved in toluene (320 ml) under nitrogen atmosphere, and then sodium hydride (60% in 2 g of paraffin liquid) was added thereto. The mixture was stirred at 60° C. for 6 hours. The reaction solution was poured into water (300 ml), and then extracted with chloroform, followed by washing with water three times. After distilling off toluene and chloroform, the resultant was distilled under reduced pressure (b.p. 60° to 63° C./4 mmHg) to give 4-propylphenylacetylene (16 g).

reactant | 3-Methyl-1-(4'-propylphenyl)-1-butyne-3-ol | 33 g | CC(C#CC1=CC=C(C=C1)CCC)(C)O | C14H18O
reactant | sodium hydride | 2 g | [H-].[Na+]
reactant | water | 300 ml | O | H2O
solvent | toluene | 320 ml | C1(=CC=CC=C1)C | C7H8
product | 4-propylphenylacetylene | 16 g | C(CC)C1=CC=C(C=C1)C#C | C11H12
